US04883815
15 ml of 2N sodium hydroxide solution are added to a solution of 1.50 g (0.004 mol) of ethyl N-[2-(4-acetamidobutyryl)-5-chlorohydrocinnamoyl]glycinate in 15 ml of tetrahydrofuran and the mixture is stirred at room temperature for 1 hour. After acidification with 17 ml of 2N hydrochloric acid, the mixture is extracted with ethyl acetate/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Recrystallization from ethyl acetate/ether yields N-[2-(4-acetamidobutyryl)-5-chlorohydrocinnamoyl]glycine as white crystals with melting point 88°-89°.

reactant | sodium hydroxide | 2N, 15 ml | [OH-].[Na+]
reactant | ethyl N-[2-(4-acetamidobutyryl)-5-chlorohydrocinnamoyl]glycinate | 0.004 mol, 1.50 g | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)NCC(=O)OCC)C=C(C=C1)Cl | C19H25ClN2O5
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-[2-(4-acetamidobutyryl)-5-chlorohydrocinnamoyl]glycine | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)NCC(=O)O)C=C(C=C1)Cl | C17H21ClN2O5
